US08802688B2
Step 1: ethyl 6-bromoquinoline-3-carboxylate
To a solution of 5-bromo-2-nitrobenzaldehyde (2 g, 9 mmol) in ethanol (46 mL) was added tin(II) chloride dihydrate (7.95 g, 35.2 mmol) and 3,3-diethoxypropionic acid ethyl ester (4.2 mL, 22 mmol). The reaction was heated to 90° C. for 16 hours. The reaction was then allowed to cool to room temperature and stir overnight. The reaction mixture was concentrated and the residue was dissolved in ethyl acetate. The mixture was poured into saturated aqueous sodium bicarbonate. The resulting emulsion was filtered through Celite, rinsing with ethyl acetate. The layers were separated and the aqueous was extracted with ethyl acetate. The combined organics were washed with brine, dried over magnesium sulfate, filtered, and concentrated. Purification by flash column chromatography (0-50% ethyl acetate/heptanes) gave the title compound (1.41 g, 60%) as a solid.

reactant | 5-bromo-2-nitrobenzaldehyde | 9 mmol, 2 g | BrC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4BrNO3
reactant | tin(II) chloride dihydrate | 35.2 mmol, 7.95 g | O.O.[Sn](Cl)Cl
reactant | 3,3-diethoxypropionic acid ethyl ester | 22 mmol, 4.2 mL | C(C)OC(CC(OCC)OCC)=O | C9H18O4
solvent | ethanol | 46 mL | C(C)O | C2H6O
product | ethyl 6-bromoquinoline-3-carboxylate | 1.41 g, 60% | BrC=1C=C2C=C(C=NC2=CC1)C(=O)OCC | C12H10BrNO2
